US07405305B2
3-(Imidazo[1,2-a]pyridin-3-yl)-4-[1-(1-propionylpiperidin-4-yl)-1H-indol-3-yl]pyrrole-2,5-dione
Dissolve 3-(imidazo[1,2-a]pyridin-3-yl)-4-[1-(piperidin-4-yl)-1H-indol-3-yl]-pyrrole-2,5-dione hydrochloride (90 mg, 0.22 mmol) and 1.0 M hydrochloric acid in 10 mL 8:2 methanol:distilled water. Add propionic anhydride (0.1 mL, 0.078 mmol) immediately followed by triethylamine (0.3 mL, 2.1 mmol). Stir the reaction at 20° C. for 30 minutes, filter the solid, rinse with cold methanol and dry at 70° C. under reduced pressure vacuum to provide the title compound. ES(M++H): 468.2.

reactant | 3-(imidazo[1,2-a]pyridin-3-yl)-4-[1-(piperidin-4-yl)-1H-indol-3-yl]-pyrrole-2,5-dione hydrochloride | 0.22 mmol, 90 mg | Cl.N=1C=C(N2C1C=CC=C2)C=2C(NC(C2C2=CN(C1=CC=CC=C21)C2CCNCC2)=O)=O
reactant | hydrochloric acid | 1.0 M | Cl | ClH
reactant | propionic anhydride | 0.078 mmol, 0.1 mL | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | triethylamine | 2.1 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | 3-(Imidazo[1,2-a]pyridin-3-yl)-4-[1-(1-propionylpiperidin-4-yl)-1H-indol-3-yl]pyrrole-2,5-dione | N=1C=C(N2C1C=CC=C2)C=2C(NC(C2C2=CN(C1=CC=CC=C21)C2CCN(CC2)C(CC)=O)=O)=O | C27H25N5O3
